US07786165B2
methyl 3-(4-{{[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate
A solution of methyl 3-(4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (0.802 g, 2.20 mmol), [4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methanol (0.601 g, 2.00 mmol) and triphenylphosphine (1.05 g, 4.00 mmol) in toluene (40 mL) was stirred under ice-cooling, and diethyl azodicarboxylate (40% toluene solution, 1.81 mL, 4.00 mmol) was added. The mixture was allowed to warm to room temperature and stirred for 43 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (20%-60% ethyl acetate/hexane) to give the title compound as an orange oil.

reactant | methyl 3-(4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 2.20 mmol, 0.802 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1=CC=C(C=C1)CCC(=O)OC | C16H16N2O6S
reactant | [4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methanol | 2.00 mmol, 0.601 g | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CO)C | C19H24O3
reactant | triphenylphosphine | 4.00 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.00 mmol, 1.81 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(4-{{[4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CN(C1=CC=C(C=C1)CCC(=O)OC)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C35H38N2O8S
